US07829560B2
2-Methyl-6-(2-methyl-pyrrolidin-yl)-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide (Compound B155).
Compound is formed by reacting 2-chloro-6-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide with 2-methylpyrrolidine under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.34 (s, 1H), 8.26 (d, 1H), 8.22 (m, 1H), 7.84 (m, 1H), 7.57 (m, 2H), 7.45 (d, 1H), 7.39 (s, 1H), 7.13 (d, 1H), 7.05 (d, 1H), 4.41 (d, 2H), 4.31 (t, 2H), 3.60 (m, 4H), 2.88 (m, 4H), 2.58 (m, 4H), 1.7 (m, 4H), 1.11 (m 1H), 0.95 (d, 3H). MS: 475.2 (M+1).

reactant | 2-chloro-6-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(N1)C | C23H24ClN3O3
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
product | 2-Methyl-6-(2-methyl-pyrrolidin-yl)-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | CC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(N1)N1C(CCC1)C | C28H34N4O3
